US08309580B2
3-[{4-[{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}(phenyl)methoxy]benzoyl}(methyl)amino]propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-[{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}(phenyl)methoxy]benzoic acid (117 mg) as well as ethyl 3-(methylamino)propanoate (39 mg) to give the title compound (117 mg, 98%) as an amorphous compound.

reactant | 4-[{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}(phenyl)methoxy]benzoic acid | 117 mg | C(C)C=1OC(=CC1C(OC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C27H21F3O4
reactant | ethyl 3-(methylamino)propanoate | 39 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-[{4-[{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}(phenyl)methoxy]benzoyl}(methyl)amino]propanoic acid | 117 mg, 98% | C(C)C=1OC(=CC1C(OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C31H28F3NO5
